US08669234B2
A mixture of 6-[5-(9,9-Difluoro-7-{2-[2-(2-methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-benzoimidazol-5-yl}-9H -fluoren-2-yl)-1H-pyrrol-2-yl]-5-aza-spiro[2.4]heptane-5-carboxylic acid benzyl ester (127 mg) and 10% palladium on carbon, wet (29 mg) in ethanol (4 mL) was stirred under an hydrogen atmosphere for 18 h. Added more and 10% palladium on carbon, wet (50 mg) and continued reaction for 30 h. Reaction mixture was filtered through a pad of CELITE, concentrated and purified by flash column chromatography (silica gel, 5 to 20% methanol/dichloromethane) to give {1-[3-(6-{7-[5-(5-Aza-spiro[2.4]hept-6-yl)-1H-pyrrol-2-yl]-9,9-difluoro-9H-fluoren-2-yl]-1H-benzoimidazol-2-yl}-2-aza-bicyclo[2.2.1]heptane-2-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester as a pale yellow film (21 mg).

reactant | 6-[5-(9,9-Difluoro-7-{2-[2-(2-methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-benzoimidazol-5-yl}-9H -fluoren-2-yl)-1H-pyrrol-2-yl]-5-aza-spiro[2.4]heptane-5-carboxylic acid benzyl ester | 127 mg | C(C1=CC=CC=C1)OC(=O)N1CC2(CC2)CC1C=1NC(=CC1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C1=CC2=C(N=C(N2)C2N(C3CCC2C3)C(C(C(C)C)NC(=O)OC)=O)C=C1)(F)F | C51H50F2N6O5
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | {1-[3-(6-{7-[5-(5-Aza-spiro[2.4]hept-6-yl)-1H-pyrrol-2-yl]-9,9-difluoro-9H-fluoren-2-yl]-1H-benzoimidazol-2-yl}-2-aza-bicyclo[2.2.1]heptane-2-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C2CCC(C1C1=NC3=C(N1)C=C(C=C3)C3=CC=1C(C4=CC(=CC=C4C1C=C3)C=3NC(=CC3)C3NCC1(CC1)C3)(F)F)C2)=O | C43H44F2N6O3
